US05412097
A mixture of 3-benzyl-5-bromo-2-ethyl-7-methylimidazo[4,5-b]pyridine (0.62 g, 1.8 mmol) and CuCN (0.806 g, 9.0 mmol) was heated in pyridine (4 mL) at reflux for 10 h under nitrogen. The reaction was cooled, then water (50 mL), KCN (1.17 g), and EtOAc (20 mL) were added and the mixture was heated to 50° C. for 5 min. Cooling and extraction with EtOAc (2×50 mL) gave 3-benzyl-5-cyano-2-ethyl-7-methylimidazo[4,5-b]pyridine as a tan solid.

reactant | 3-benzyl-5-bromo-2-ethyl-7-methylimidazo[4,5-b]pyridine | 1.8 mmol, 0.62 g | C(C1=CC=CC=C1)N1C(=NC=2C1=NC(=CC2C)Br)CC | C16H16BrN3
reactant | CuCN | 9.0 mmol, 0.806 g | C(#N)[Cu]
reactant | water | 50 mL | O | H2O
reactant | KCN | 1.17 g | [C-]#N.[K+]
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 3-benzyl-5-cyano-2-ethyl-7-methylimidazo[4,5-b]pyridine | C(C1=CC=CC=C1)N1C(=NC=2C1=NC(=CC2C)C#N)CC | C17H16N4
